### PR TITLE
WIP: start proof of mulEquivHaarChar_prodCongr (#520)

### PR DESCRIPTION
**Pull request by js2357**
This is my attempt at the beginning of the proof (#520), through the proof that ν is a Haar measure.

I think the proof in the blueprint is implicitly assuming that the groups involved are Hausdorff. Without that, the compact sets X and Y (as defined in the blueprint proof) are not necessarily measurable, and the proof gets more complicated. But maybe I'm missing something, so any feedback is welcome.

### CODE REVIEW

**Comment by DavidLedvinka** [comment]
Heres what I have:

```lean
open Set in
@[to_additive MeasureTheory.addEquivAddHaarChar_prodCongr]
lemma mulEquivHaarChar_prodCongr {mG : MeasurableSpace G} [BorelSpace G]
    {mH :MeasurableSpace H} [BorelSpace H] (φ : G ≃ₜ* G) (ψ : H ≃ₜ* H) :
    letI : MeasurableSpace (G × H) := borel _
    haveI : BorelSpace (G × H) := ⟨rfl⟩
    mulEquivHaarChar (φ.prodCongr ψ) = mulEquivHaarChar φ * mulEquivHaarChar ψ := by
  let ℬ : MeasurableSpace (G × H) := borel _
  have : BorelSpace (G × H) := ⟨rfl⟩
  let ρ := haar (G := G × H)
  have hσ : mG.prod mH ≤ ℬ := prod_le_borel_prod
  obtain ⟨K₁', _⟩ := exists_positiveCompacts_subset (α := G) isOpen_univ univ_nonempty
  obtain ⟨K₂', _⟩ := exists_positiveCompacts_subset (α := H) isOpen_univ univ_nonempty
  obtain ⟨K₁, hK₁⟩ :=
    exists_positiveCompacts_subset (α := G) (isOpen_interior (s := K₁')) K₁'.interior_nonempty
  obtain ⟨K₂, hK₂⟩ :=
    exists_positiveCompacts_subset (α := H) (isOpen_interior (s := K₂')) K₂'.interior_nonempty
  let ρ₁ := ((ρ.trim hσ).restrict (univ ×ˢ interior (K₂ : Set H))).fst
  have hρ₁ {s : Set G} (hs : MeasurableSet s) : ρ₁ s = ρ (s ×ˢ interior (K₂ : Set H)) := by
    dsimp [ρ₁, fst]
    rw [map_apply (by fun_prop)]
    rw [←prod_univ, Measure.restrict_apply, trim_measurableSet_eq, prod_inter_prod, inter_univ,
      univ_inter]
    all_goals measurability
  have : IsMulLeftInvariant ρ₁ :=
    { map_mul_left_eq_self g := by
        ext s hs
        have : MeasurableSet ((fun x ↦ g * x) ⁻¹' s) := hs.preimage (by fun_prop) -- measurability
        rw[map_apply (by fun_prop), hρ₁, hρ₁]
        nth_rw 2 [← map_mul_left_eq_self ρ ⟨g,1⟩]
        conv in fun x ↦ (g, 1) * x => change fun x ↦ ((g * ·) x.1, (1 * ·) x.2)
        conv in fun x ↦ 1 * x => simp
        rw [map_apply (by fun_prop)]
        rw[← prod_preimage_left]
        all_goals measurability
    }
  have ρ_pos : ρ ((interior (K₁ : Set G)) ×ˢ (interior (K₂ : Set H))) ≠ 0 :=
    IsOpenPosMeasure.open_pos _
      (isOpen_prod_iff'.mpr (Or.inl ⟨isOpen_interior, isOpen_interior⟩))
      (Nonempty.prod K₁.interior_nonempty K₂.interior_nonempty)
  have ρ_fin : ρ (K₁' ×ˢ K₂') < ⊤ :=
    IsFiniteMeasureOnCompacts.lt_top_of_isCompact (K₁'.isCompact.prod K₂'.isCompact)
  have ρ₁_harr : IsHaarMeasure ρ₁ := by
    apply isHaarMeasure_of_isCompact_nonempty_interior ρ₁ K₁ K₁.isCompact K₁.interior_nonempty
    · contrapose! ρ_pos
      rw [← hρ₁ (by measurability), ← nonpos_iff_eq_zero]
      exact le_of_le_of_eq (measure_mono interior_subset) ρ_pos
    · rw [← lt_top_iff_ne_top]
      apply lt_of_le_of_lt (measure_mono hK₁)
      · rw[hρ₁ (by measurability)]
        refine lt_of_le_of_lt ?_ ρ_fin
        apply measure_mono
        apply prod_subset_prod_iff.mpr
        refine Or.inl ⟨interior_subset , ?_⟩
        exact subset_trans interior_subset (subset_trans hK₂ interior_subset)
  sorry
```
This defines $\nu$ as $\rho_1$ and proves its a Haar measure. I use an open set sandwiched between two compacts in place of the compact sets from the blueprint. It can probably be golfed a lot. I think the rest of the proof should be completable using `hρ₁`$ and the fact that $\rho_1$ and $\rho$ are Haar measures as in the blueprint. Feel free to use some or all of this code!

**Comment by js2357** [comment]
I managed to remove the need for regularity, so the proof works now. The regularity was previously needed to apply `mulEquivHaarChar_map` to show that two measures are equal, but we actually only needed them to be equal on open sets, which is now proved without assuming regularity (`mulEquivHaarChar_map_open`). The proof of `mulEquivHaarChar_map_open` in turn required a lemma `haarScalarFactor_map` which says that `(map φ μ').haarScalarFactor (map φ μ) = μ'.haarScalarFactor μ`.

A few remaining issues:

- Are we happy with the name `haarScalarFactor_map`? (Maybe `haarScalarFactor_map_map`, instead?) 
- Do we want to use my definition of `ν` and `μ` or David's? I haven't looked too closely at his yet, but it looks like it might be cleaner.
- Is there a way to avoid all the duplicative code in the definitions of  `ν` and `μ`? They are obviously the "same" construction, but I don't know whether we have the machinery to formalize that conveniently.

**Comment by js2357** [comment]
awaiting-review

File: FLT/HaarMeasure/HaarChar/AddEquiv.lean [hunk 1]
```diff
@@ -240,13 +269,192 @@ variable {G : Type*} [Group G] [TopologicalSpace G]
...
+    ∃ (U : Set G) (C : Set G), IsOpen U ∧ IsCompact C ∧ K ⊆ U ∧ U ⊆ C := by
+  have ⟨C₀, hC₀1, _, hC₀⟩ := local_compact_nhds (x := (1 : G)) Filter.univ_mem -- Compact nhd of 1
+  have ⟨U₀, hU₀, hU₀open, one_mem_U₀⟩ := mem_nhds_iff.mp hC₀1
+  have h : ∀ g, g ∈ g • U₀ := fun _ ↦ ⟨1, one_mem_U₀, by simp⟩
+  have ⟨I, hI⟩ := hK.elim_finite_subcover (· • U₀) hU₀open.smul fun x _ ↦ Set.mem_iUnion.2 ⟨x, h x⟩
+  refine ⟨(⋃ i ∈ I, i • U₀), (⋃ i ∈ I, i • C₀), isOpen_biUnion (fun i _ ↦ hU₀open.smul i),
+    I.isCompact_biUnion (fun i _ ↦ hC₀.smul i), hI, fun x hx ↦ ?_⟩
+  simp only [Set.mem_iUnion, exists_prop] at hx
+  have ⟨i₀, hi₀⟩ := hx
+  exact Set.mem_iUnion.mpr ⟨i₀, by simpa [hi₀] using Set.smul_set_mono hU₀ hi₀.2⟩
```
Comment (DavidLedvinka) [inline FLT/HaarMeasure/HaarChar/AddEquiv.lean]:
```suggestion
  obtain ⟨C, hC, hKC⟩ := exists_compact_superset hK
  exact ⟨(interior C), C, isOpen_interior, hC, hKC,  interior_subset⟩
```

Comment (DavidLedvinka) [reply FLT/HaarMeasure/HaarChar/AddEquiv.lean]: Also this lemma should probably not be IsTopologicalGroup since it only uses local compactness (and the linter complains about Group and TopologicalGroup being unused)

Comment (js2357) [reply FLT/HaarMeasure/HaarChar/AddEquiv.lean]: The lemma probably shouldn't exist at all if `exists_compact_superset` already exists. I removed it.

File: FLT/HaarMeasure/HaarChar/AddEquiv.lean [hunk 2]
```diff
@@ -240,7 +269,101 @@ lemma mulEquivHaarChar_prodCongr [MeasurableSpace G] [BorelSpace G]
...
+    · exact ⟨1, hYopen.subset_interior_iff.mpr hY one_mem_Y⟩
+    · refine ne_of_gt (lt_of_lt_of_le ?_ (measure_mono hY))
+      rw [μ_apply hYopen.measurableSet]
+      exact (hXopen.prod hYopen).measure_pos haar ⟨⟨1, 1⟩, by simp [one_mem_X, one_mem_Y]⟩
+    · have ⟨C, hCcomp, hC⟩ := exists_compact_superset hKcomp
+      refine lt_top_iff_ne_top.mp <| lt_of_le_of_lt (measure_mono hC) ?_
+      rw [μ_apply measurableSet_interior]
+      apply lt_of_le_of_lt <| measure_mono <| Set.prod_mono hX interior_subset
+      exact hK'comp.prod hCcomp |>.measure_ne_top.symm.lt_top'
+
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/AddEquiv.lean]: I find the blank lines in the proof jarring because I'm so used to mathlib where a blank line means "the proof is done". Can you replace them with e.g. `--` lines or even better `-- helpful comment about what is about to happen` lines? They appear in green in VS Code so they're still a good visual marker of a "pause" without giving the impression that it's the end of the proof.

**Review by kbuzzard — APPROVED** [review]
Other than the nit about the blank lines, this is ready to go. It's quite a tour de force to prove it in the right generality -- thanks for taking the time! By the way, some of the material which I'd marked "should be in haarScalarFactor API" is now included in https://github.com/leanprover-community/mathlib4/pull/25829 which is the beginning of the port of these ideas to mathlib. The reason I started to port them was that some people working on local fields need `ringHaarChar` so I told them I'd upstream it.

PS I apologise that it's taken me so long to get to this PR; I spent the week two weeks ago fretting about my FLT talk in Cambridge and then I spent last week in Cambridge at a conference. Normal service is now resumed...

**Comment by AbdulShabazz** [comment]
Excellent, js2357

File: FLT/HaarMeasure/HaarChar/AddEquiv.lean (hunk 2 above)
Comment (js2357) [reply FLT/HaarMeasure/HaarChar/AddEquiv.lean]: Blank lines are removed and comments are slightly expanded. No need to apologize for taking a little while to get to it.

**Comment by js2357** [comment]
awaiting-review
